US04526962
A solution of 3-(2-acetylaminothiazol-5-yl)-2-benzhydryloxycarbonyl-8-oxo-7-(thien-2-yl)-acetamido-5-oxa-1-azabicyclo[4.2.0]oct-2-ene (0.1 g) in formic acid (5 cc) is heated at 50° C. for 30 minutes, with stirring. The mixture is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. and the residue is dissolved in ethanol (5 cc). The suspension obtained is stirred at 50° C. for 5 minutes and the solvent is evaporated off under reduced pressure (30 mm Hg; 4 kPa) at 50° C.; this operation is repeated once and the residue thus obtained is taken up in ethanol (2 cc). After filtration, the suspended solid gives 3-(2-acetylaminothiazol-5-yl)-2-carboxy-8-oxo-7-(thien-2-yl)-acetamido-5-oxo-1-azabicyclo[4.2.0]oct-2-ene (12 mg) in the form of a beige powder.

reactant | 3-(2-acetylaminothiazol-5-yl)-2-benzhydryloxycarbonyl-8-oxo-7-(thien-2-yl)-acetamido-5-oxa-1-azabicyclo[4.2.0]oct-2-ene | 0.1 g | C(C)(=O)NC=1SC(=CN1)C1=C(N2C(C(C2OC1)C=1SC=CC1)=O)NC(CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C31H26N4O6S2
reactant | ethanol | 2 cc | C(C)O | C2H6O
solvent | formic acid | 5 cc | C(=O)O | CH2O2
product | 3-(2-acetylaminothiazol-5-yl)-2-carboxy-8-oxo-7-(thien-2-yl)-acetamido-5-oxo-1-azabicyclo[4.2.0]oct-2-ene | 12 mg | C(C)(=O)NC=1SC(=CN1)C1=C(N2C(C(C2C(C1)=O)C=1SC=CC1)=O)NC(CC(=O)O)=O | C19H16N4O6S2
